US07741354B2
Compound 38: {(3,4-Dihydro-2H-pyran-2-yl)-[1-(2-dimethylamino-ethyl)-1H-tetrazol-5-yl]-methyl}-(3-imidazol-1-yl-propyl)-amine
3-Imidazol-1-yl-propylamine (1 mmol) and 3,4-Dihydro-2H-pyran-2-carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours Trimethylsilylazide (5 mmol) and (2-Isocyano-ethyl)-dimethyl-amine (1 mmol) was added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 3,4-Dihydro-2H-pyran-2-carbaldehyde | 1 mmol | O1C(CCC=C1)C=O | C6H8O2
reactant | Trimethylsilylazide | 5 mmol | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | (2-Isocyano-ethyl)-dimethyl-amine | 1 mmol | [N+](#[C-])CCN(C)C | C5H10N2
solvent | methanol | 2 ml | CO | CH4O
product | {(3,4-Dihydro-2H-pyran-2-yl)-[1-(2-dimethylamino-ethyl)-1H-tetrazol-5-yl]-methyl}-(3-imidazol-1-yl-propyl)-amine | O1C(CCC=C1)C(C1=NN=NN1CCN(C)C)NCCCN1C=NC=C1 | C17H28N8O
